US04704462
A solution of lithium aluminum hydride (0.02 mol) in diethyl ether (20 ml) was added dropwise to a solution of ethyl 3,4-dimethoxycinnamate (9.4 g, 0.04 mol) in diethyl ether (150 ml), and the mixture was heated under reflux for 1 hour. Water (15 ml) and 2.5N sodium hydroxide (5 ml) were added to the cooled solution, and the precipitate was filtered off and washed with ether. The combined filtrates were washed with water, dried, and evaporated to dryness. The crude product was put on a column of silica gel and eluted with hexane-ethyl acetate (1.5:1, v/v). 3,4-Dimethoxycinnamyl alcohol was isolated as a crystalline mass (5.0 g, 65%), m.p. 76°-76.5° C.

reactant | lithium aluminum hydride | 0.02 mol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 3,4-dimethoxycinnamate | 0.04 mol, 9.4 g | COC=1C=C(C=CC(=O)OCC)C=CC1OC | C13H16O4
reactant | Water | 15 ml | O | H2O
reactant | sodium hydroxide | 2.5N, 5 ml | [OH-].[Na+]
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 3,4-Dimethoxycinnamyl alcohol | COC=1C=C(C=CCO)C=CC1OC | C11H14O3
